US04981850
The general procedure of Gewald, J. Prakt, Chem., 32,26-30 (1966) was used to prepare 4-amino-3-methylthiazoline-2-thione-5-carboxamide, of which 27.3g (0.14 mole) was suspended in a mixture of approximately 144ml of acetic anhydride and about 144ml of triethyl orthopropionate. The resultant mixture was refluxed for approximately one half hour, then cooled in an ice bath. The solid which precipitated was separated by filtration, washed with diethyl ether and dried in a vacuum oven at approximately 100° C. to provide 21.4g (65%) of 5-ethyl-3-methyl-6H-thiazolo[4,5-d]pyrimidin-7-one-2-thione. Infrared spectral analysis confirmed the structural assignment.

reactant | 4-amino-3-methylthiazoline-2-thione-5-carboxamide | NC=1N(C(SC1C(=O)N)=S)C | C5H7N3OS2
reactant | triethyl orthopropionate | about 144ml | C(CC)(OCC)(OCC)OCC | C9H20O3
solvent | acetic anhydride | approximately 144ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-ethyl-3-methyl-6H-thiazolo[4,5-d]pyrimidin-7-one-2-thione | 21.4g, 65% | C(C)C=1NC(C2=C(N1)N(C(S2)=S)C)=O | C8H9N3OS2
